US04144388
A 2-liter separable flask equipped with a stirring device, a condenser, a thermometer and three metering pumps was used as a polymerization reactor, and charged with 200 ml of methanol, 25.8 g (0.3 mole) of vinyl acetate, and 10.7 g (0.08 mole) of N-t-butyl acrylamide in an atmosphere of nitrogen. With stirring, the temperature of the reaction system was raised to 50° C. When the temperature of the reaction system reached 50° C., 3.48 g (0.02 mole) of t-butyl peroxypivalate was added, and the copolymerization was started. The copolymerization was continued while continuously feeding 172.2 g (2.0 moles) of vinyl acetate from a first metering pump for 2 hours at a rate of 1 mole/hr, a solution of 366.3 g (2.88 moles) of N-t-butyl acrylamide in 800 ml of methanol from a second metering pump for 2 hours and 20 minutes so that the rate of N-butyl acrylamide fed was 1 mole/hr, and a solution of 6.97 g (0.04 mole) of t-butyl peroxypivalate in 200 ml of methanol from a third metering pump for 2.5 hours so that the feed rate of the t-butyl peroxypivalate became 0.01 mole/hr. The copolymerization proceeded while maintaining a homogeneous system. After the copolymerization for 2.5 hours, the polymerization reaction mixture was poured into a large amount of water. The resulting copolymer precipitated and came afloat on the surface of the water. The copolymer was collected, washed thoroughly with water, pulverized by a mixer into a powder, collected by filtration, and dried at 40° C. in vacuo. The amount of the vinyl acetate/N-t-butyl acrylamide copolymer so obtained was 465 g. NMR spectroscopy in deuterochloroform showed that the N-t-butyl acrylamide unit content of the copolymer was 51 mole%.

reactant | vinyl acetate | 0.3 mole, 25.8 g | C(C)(=O)OC=C | C4H6O2
reactant | N-t-butyl acrylamide | 0.08 mole, 10.7 g | C(C)(C)(C)NC(C=C)=O | C7H13NO
reactant | t-butyl peroxypivalate | 0.02 mole, 3.48 g | C(C(C)(C)C)(=O)OOC(C)(C)C | C9H18O3
reactant | vinyl acetate | 2.0 moles, 172.2 g | C(C)(=O)OC=C | C4H6O2
reactant | N-t-butyl acrylamide | 2.88 moles, 366.3 g | C(C)(C)(C)NC(C=C)=O | C7H13NO
reactant | N-butyl acrylamide | C(CCC)NC(C=C)=O | C7H13NO
reactant | t-butyl peroxypivalate | 0.04 mole, 6.97 g | C(C(C)(C)C)(=O)OOC(C)(C)C | C9H18O3
solvent | methanol | 800 ml | CO | CH4O
solvent | methanol | 200 ml | CO | CH4O
solvent | methanol | 200 ml | CO | CH4O
solvent | water | O | H2O
product | vinyl acetate N-t-butyl acrylamide | C(C)(=O)OC=C.C(C)(C)(C)NC(C=C)=O | InChI=1S/C7H13NO.C4H6O2/c1-5-6(9)8-7(2,3)4;1-3-6-4(2)5/h5H,1H2,2-4H3,(H,8,9);3H,1H2,2H3
